US08729095B2
To an N,N-dimethylformamide solution (50.0 ml) of (2R)-3-bromo-2-methyl-1-propanol (7.63 g) were added under ice cooling imidazole (7.13 g) and tert-butylchlorodiphenylsilane (14.8 ml), followed by stirring at room temperature for 5 hours. The reaction solution was poured into a saturated aqueous ammonium chloride solution, and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting residue was purified by silica gel chromatography to afford {[(2R)-3-bromo-2-methylpropyl]oxy}(tert-butyl)diphenylsilane (19.2 g).

reactant | (2R)-3-bromo-2-methyl-1-propanol | 7.63 g | BrC[C@@H](CO)C | C4H9BrO
reactant | imidazole | 7.13 g | N1C=NC=C1 | C3H4N2
reactant | tert-butylchlorodiphenylsilane | 14.8 ml | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C16H19ClSi
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 50.0 ml | CN(C=O)C | C3H7NO
product | {[(2R)-3-bromo-2-methylpropyl]oxy}(tert-butyl)diphenylsilane | 19.2 g | BrC[C@@H](CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C | C20H27BrOSi
